2186-02-15 07:33:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
 MULTI LUMEN - START [**2186-2-14**] 04:54 PM
 BLOOD CULTURED - At [**2186-2-14**] 10:00 PM
 BLOOD CULTURED - At [**2186-2-15**] 03:00 AM
 FEVER - 102.7
F - [**2186-2-14**] 07:00 PM
   ID- stop CTX, AMP, continue flagyl, vanco, add Zosyn, agree CT torso,
   fungal blood cx, add VZ to CSF
   Rheum- swtich prednisone to IV solumedrol, check complement, cryo,
   lupus AC, anticardiolipin, keppra level
   Neuro- check keppra level, hold off EEG, agree MRI
   SC CVL placed
   Repleting lytes, fibrinogen stable
   transfused 2 units PRBC
   pulled back SC line 1 inch
   CVP up to 9 with aggressive IVF, HR down 110s, MAP 80s, lactate 1.6
   WBC 19 with 16% bands
   CT torso prelim shows pericardial effusion, LLL atelectasis, cant
   exclude PNA, anasarca, re-accumulated area in pelvis, phlegmatous
   concerning for abscess
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2186-2-14**] 04:47 PM
   Vancomycin - [**2186-2-14**] 09:00 PM
   Metronidazole - [**2186-2-14**] 10:12 PM
   Acyclovir - [**2186-2-15**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2186-2-15**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-2-14**] 08:00 PM
   Morphine Sulfate - [**2186-2-15**] 05:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-2-15**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.8
C (100.1
   HR: 116 (112 - 157) bpm
   BP: 114/86(93) {85/25(39) - 125/92(98)} mmHg
   RR: 29 (19 - 46) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 4 (-4 - 13)mmHg
   Total In:
                                                                  9,958 mL
                                                                  2,353 mL
   PO:
                                                                    100 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  9,133 mL
                                                                  2,253 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,958 mL
                                                                  2,353 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///12/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   123 K/uL
   11.5 g/dL
   72 mg/dL
   0.7 mg/dL
   12 mEq/L
   4.3 mEq/L
   10 mg/dL
   124 mEq/L
   143 mEq/L
   33.5 %
   18.6 K/uL
        [image002.jpg]
                             [**2186-2-14**]  05:02 PM
                             [**2186-2-15**]  02:50 AM
   WBC
   19.5
   18.6
   Hct
   20.7
   33.5
   Plt
   173
   123
   Cr
   0.6
   0.7
   Glucose
   79
   72
   Other labs: PT / PTT / INR:19.4/69.8/1.8, Differential-Neuts:96.4 %,
   Band:16.0 %, Lymph:2.2 %, Mono:1.1 %, Eos:0.1 %, Fibrinogen:237 mg/dL,
   Lactic Acid:1.6 mmol/L, Ca++:5.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 HYPOTENSION (NOT SHOCK)
   21 F with SLE with multiple complications from serositis, infection who
   presented to medical [**Hospital1 **] with concern for seizure activity and now
   with tachycardia, fever, and borderline blood pressure consistent with
   sepsis
   .
   # Sepsis: unclear etiology, sinus tachycardia on ECG meets SIRS
   criteria, broad DDX includes [**12-19**] underlying reactivation SLE activity,
   infection with multiple possibilities in regards to source including
   abdomon given recent pelvic fluid collection with no growth on cx,
   pericardial fluid, pleural fluid, blood, urine, CSF. Patient had LP
   with WBC 1 so no signs bacterial meningitis. Also need to consider
   tamponade physiology, pulsus <15, pulmonary embolus (negative Factor V,
   no other hypercoagulable workup), GIB given recent [**First Name4 (NamePattern1) 1862**] [**Last Name (NamePattern1) **],
   volume depletion with increased insensible losses [**12-19**] fever and emesis
   at home.
   - aggressive IVF with goal UOP 30cc/hr, mental status, CVP once central
   access obtained
   - place CVL and follow CVP
   - check HCT if low will transfuse PRBC, type and crossed
   - check CTA thorax
   - check CT abdomen/pelvis
   - follow up results TTE
   - follow up urine, blood, CSF cultures
   - check beta glucan, galactomannan given immunosuppression
   - f/u HSV PCR
   - will continue ceftriaxone switch to q24h dosing, flagyl, acyclovir
   while cx await, also continue vancomycin and will discuss with ID
   regarding ampicillin and addition of zosyn
   .
   # SLE- need to check for disease activity
   - will discuss with rheumatology sending complement, anti-ds DNAto
   assess lupus activity
   - check u/a, urine p/c ratio
   - MRI/MRA/MRV
   - continue prednisone and hydroxychloroquine
   .
   # Seizures- no further seizure activity while on Keppra
   - neurology following
   - ativan PRN
   - hold off EEG given no seizure activity observed in house
   .
   # h/o disseminated zoster
   - rash improved
   - on acyclovir until HSV returns
   .
   # Rash- present since discharge, unclear which medication may have
   cause, may be related to underlying lupus
   - montitor
   - consider bx if worsens
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: 22 gauge EJ, 20 gauge PIV currently
   .
   # Code: FULL
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-2-14**] 04:00 PM
   Multi Lumen - [**2186-2-14**] 04:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2186-02-16 07:57:00 Physician Resident Progress Note
Chief Complaint: SEPSIS
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2186-2-15**] 08:00 PM
   [**2-15**]
   Continued to have pain in her back at LP site, very tearful
   morphine increased to 2 mg q3
   She had MRI/MRA/MRV brain
   IR contact[**Name (NI) **] with plan to place drain in pelvic fluid collection, will
   give 2 units FFP prior.
   Surgery consulted, agree with IR drain of collection
   Written for vitamin K 5mg po daily x 3 days for coagulopathy
   Urine culture with 10-100,000 GNR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2186-2-14**] 04:47 PM
   Vancomycin - [**2186-2-15**] 09:00 PM
   Acyclovir - [**2186-2-15**] 09:51 PM
   Metronidazole - [**2186-2-16**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2186-2-16**] 05:31 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-2-15**] 08:00 AM
   Lorazepam (Ativan) - [**2186-2-15**] 07:30 PM
   Morphine Sulfate - [**2186-2-16**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-2-16**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.7
C (96.3
   HR: 92 (86 - 111) bpm
   BP: 101/70(77) {91/56(65) - 123/95(101)} mmHg
   RR: 20 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
    CVP: 2 (2 - 19)mmHg
   Total In:
                                                                  6,700 mL
                                                                  1,156 mL
   PO:
                                                                  1,180 mL
   TF:
   IVF:
                                                                  5,520 mL
                                                                  1,156 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                      0 mL
   Urine:
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,000 mL
                                                                  1,156 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///12/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   103 K/uL
   12.3 g/dL
   81 mg/dL
   0.9 mg/dL
   12 mEq/L
   4.5 mEq/L
   16 mg/dL
   116 mEq/L
   137 mEq/L
   34.4 %
   28.6 K/uL
        [image002.jpg]
                             [**2186-2-14**]  05:02 PM
                             [**2186-2-15**]  02:50 AM
                             [**2186-2-15**]  02:16 PM
                             [**2186-2-16**]  03:31 AM
   WBC
   19.5
   18.6
   20.5
   28.6
   Hct
   20.7
   33.5
   32.1
   34.4
   Plt
   173
   123
   100
   103
   Cr
   0.6
   0.7
   0.9
   0.9
   Glucose
   79
   72
   132
   81
   Other labs: PT / PTT / INR:18.3/60.3/1.7, Differential-Neuts:96.4 %,
   Band:16.0 %, Lymph:2.2 %, Mono:1.1 %, Eos:0.1 %, Fibrinogen:264 mg/dL,
   Lactic Acid:1.6 mmol/L, Ca++:6.7 mg/dL, Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Imaging: none today
   MRI/MRV/MRA pending prelim read
   Microbiology: ngtd, asp/galac pending
   Assessment and Plan
 INEFFECTIVE COPING
 IMPAIRED SKIN INTEGRITY
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RASH
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ELECTROLYTE & FLUID DISORDER, OTHER
   21 F with SLE with multiple complications from serositis, infection who
   presented to medical [**Hospital1 **] with concern for seizure activity and now
   with tachycardia, fever, and borderline blood pressure consistent with
   sepsis
   .
   # Sepsis: leading source is abdomen given ncreased pelvic fluid
   collection with concern for abscess, pericardial fluid, pleural fluid,
   blood, urine, CSF. Patient had LP with WBC 1 so no signs bacterial
   meningitis. Also need to consider tamponade physiology, pulsus <15,
   pulmonary embolus (negative Factor V, no other hypercoagulable workup),
   GIB given recent [**First Name4 (NamePattern1) 1862**] [**Last Name (NamePattern1) **],  volume depletion with increased
   insensible losses [**12-19**] fever and emesis at home.
   - aggressive IVF with goal UOP 30cc/hr, mental status, CVP once central
   access obtained
   - follow CVP
   - get surgery and IR involved to drain
   - transfused with adequate bump
   - f/u final read CT torso
   - TTE no tamponade
   - follow up urine, blood, CSF cultures- NGTD
   - beta glucan, galactomannan given immunosuppression pending
   - f/u HSV PCR
   - will continue zosyn, flagyl, vanco, acyclovir
   .
   # SLE- need to check for disease activity
   - will discuss with rheumatology sending complement, anti-ds DNAto
   assess lupus activity
   - urine p/c ratio 3.2 awaiting other markers of disease activity
   - MRI/MRA/MRV
   - continue IV solumedrol
   .
   # Seizures- no further seizure activity while on Keppra
   - neurology following
   - ativan PRN
   - hold off EEG given no seizure activity observed in house
   .
   # Coagulopathy- elevated PTT and INR
   - fibrinogen WNL
   - give vitamin K
   - monitor
   .
   # h/o disseminated zoster
   - rash stable
   - on acyclovir until HSV returns
   .
   # NAG acidosis- likely [**12-19**] massive normal saline, switched to LR,
   monitor
   .
   # Rash- present since discharge, unclear which medication may have
   cause, may be related to underlying lupus
   - monitor, will d/w ID d/c acyclovir
   - consider bx if worsens
   .
   # FEN:  replete electrolytes, regular diet
   .
   # Prophylaxis: pboots
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-2-14**] 04:00 PM
   Multi Lumen - [**2186-2-14**] 04:54 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU